US09085555B2
(1R,3S,5R)-2-[2-(3-Acetyl-5-hydroxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared in a similar manner as described above for Example 577 from (1R,3S,5R)-2-[2-(3-acetyl-5-benzyloxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide (79.0 mg, 0.138 mmol), TFA (3 mL) and thioanisole (0.163 mL, 1.38 mmol). Solid. MS (LC/MS): 484 [M+H]+; tR (HPLC, conditions k): 3.18 min.

reactant | (1R,3S,5R)-2-[2-(3-acetyl-5-benzyloxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | 0.138 mmol, 79.0 mg | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC(=CC=C23)OCC2=CC=CC=C2)C(C)=O)=O)C=CC1)F | C32H29ClFN3O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | thioanisole | 1.38 mmol, 0.163 mL | C1(=CC=CC=C1)SC | C7H8S
product | (1R,3S,5R)-2-[2-(3-Acetyl-5-hydroxy-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC(=CC=C23)O)C(C)=O)=O)C=CC1)F | C25H23ClFN3O4
